US08808879B2
2-bromo-N-(2-(phenylamino)phenyl)benzamide (5)
To a solution of N-phenylbenzene-1,2-diamine (6.08 g, 30 mmol) in anhydrous dichloromethane (˜100 mL), was added 2-bromobenzoylchloride (6.585 g, 33 mmol), followed by triethylamine (7.0 mL, 50 mmol) slowly with water bath cooling. After the additions, the whole was stirred at room temperature overnight. The resulting mixture was poured into water (˜150 mL) and extracted with dichloromethane (˜100 mL) twice. The organic phase was collected, dried over Na2SO4, concentrated and recrystallized in dichloromethane/hexanes to give a white solid (10.7 g, in 92% yield).

reactant | N-phenylbenzene-1,2-diamine | 30 mmol, 6.08 g | C1(=CC=CC=C1)NC=1C(=CC=CC1)N | C12H12N2
reactant | 2-bromobenzoylchloride | 33 mmol, 6.585 g | BrC1=C(C(=O)Cl)C=CC=C1 | C7H4BrClO
reactant | triethylamine | 50 mmol, 7.0 mL | C(C)N(CC)CC | C6H15N
reactant | water | ˜150 mL | O | H2O
solvent | dichloromethane | ˜100 mL | ClCCl | CH2Cl2
product | 2-bromo-N-(2-(phenylamino)phenyl)benzamide | 92% yield | BrC1=C(C(=O)NC2=C(C=CC=C2)NC2=CC=CC=C2)C=CC=C1 | C19H15BrN2O
